US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(3-(trifluoromethyl)benzo[b]thiophen-6-yl)imidazolidin-2-one (23A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 170 mg, 0.837 mmol) was reacted with 6-bromo-3-(trifluoromethyl)benzo[b]thiophene (259 mg, 0.921 mmol), 1,4-dioxane (8 mL), copper iodide (15.9 mg, 0.083 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (11.9 mg, 0.083 mmol) and potassium phosphate (533 mg, 2.51 mmol) to afford the crude product. Purification by column chromatography on silica gel (0.4% methanol in CHCl3) afforded 15 mg of the product (4% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.837 mmol, 170 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 6-bromo-3-(trifluoromethyl)benzo[b]thiophene | 0.921 mmol, 259 mg | BrC=1C=CC2=C(SC=C2C(F)(F)F)C1 | C9H4BrF3S
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.083 mmol, 11.9 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 2.51 mmol, 533 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.083 mmol, 15.9 mg | [Cu](I)I
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(3-(trifluoromethyl)benzo[b]thiophen-6-yl)imidazolidin-2-one | 15 mg, 4% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C=1C=CC2=C(SC=C2C(F)(F)F)C1)=O | C20H16F3N3OS
